US05521179
To a solution of tert-butyl (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetate (0.554 g) in dichloromethane (distilled from CaH) was added trifluoroacetic acid (1.50 ml); and the mixture was stirred overnight, evaporated, and dried under vacuum to afford (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetic acid; MS: m/z=407(M+1).

reactant | tert-butyl (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetate | 0.554 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)CCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C27H30N2O5
reactant | trifluoroacetic acid | 1.50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetic acid | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)CCC1=CC=CC=C1)CC(=O)O)=O | C23H22N2O5
